US04608375
To a mixture of 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-2,4-(1H,3H)-quinazolinedione (3.1 g) and phosphorus pentasulfide (6.1 g) was added pyridine (70 ml) and the mixture was stirred for 18 hours at 100° C. The reaction mixture was cooled and then concentrated in vacuo. To the residue was added water and the mixture was stirred and then resultant precipitates were collected by filtration and washed with water. To the precipitates was added chloroform and the mixture was stirred enough and then insoluble materials were filtered off. These insoluble materials were washed twice with chloroform and then whole chloroform layers were combined, washed with water and with saturated sodium chloride aqueous solution respectively, dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by a column chromatography on silica gel (90 g) using 2% methanol in chloroform for elution to give 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-4-thioxo-3,4-dihydro-2(1H)-quinazolinone (1.2 g) as an amorphous material.

reactant | 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-2,4-(1H,3H)-quinazolinedione | 3.1 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC(C2=CC=CC=C12)=O)=O)C1=CC=CC=C1 | C28H30N4O2
reactant | phosphorus pentasulfide | 6.1 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-4-thioxo-3,4-dihydro-2(1H)-quinazolinone | 1.2 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC(C2=CC=CC=C12)=S)=O)C1=CC=CC=C1 | C28H30N4OS
